US07109216B2
Part A: 2,4-Dichlorobenzoyl chloride (40.0 g, 0.19 mol) is dissolved in tetrahydrofuran (1 L). To the resulting stirred solution is successively added diisopropylethylamine (DIPEA) (73.4 mL, 2.2 molar equivalent) and 4-(trifluoromethyl)phenylamine (30.7 g, 0.19 mol). After one hour the mixture is concentrated in vacuo to give an oil. This oil is crystallised from ethanol to give pure 2,4-dichloro-N-(4-(trifluoromethyl)phenyl)benzamide (53.2 g, 83% yield). 1H-NMR (200 MHz, DMSO-d6): δ 10.90 (br s, 1H), 7.91 (br d, J=8 Hz, 2H), 7.63–7.77 (m, 4H), 7.57 (dt, J=8 Hz, J=2 Hz, 1H).

reactant | 2,4-Dichlorobenzoyl chloride | 0.19 mol, 40.0 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | diisopropylethylamine | 2.2 molar, 73.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(trifluoromethyl)phenylamine | 0.19 mol, 30.7 g | FC(C1=CC=C(C=C1)N)(F)F | C7H6F3N
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 2,4-dichloro-N-(4-(trifluoromethyl)phenyl)benzamide | 53.2 g, 83% yield | ClC1=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=CC(=C1)Cl | C14H8Cl2F3NO
